US06825172B2
1 M aq. Na2CO3 (20 mL) and ethanol (10 mL) were added to a solution 15 of 2-chloropyrazine (2.30 g, 20.06 mmol), 4-formylphenylboronic acid (3.90 g, 26.01 mmol) and [1,4-bis(diphenylphosphino)butane]palladium(II) dichloride (0.60 g, 0.99 mmol) in toluene (40 mL) and the mixture was heated to reflux for 18 h. The cooled reaction mixture was diluted with ethyl acetate, washed with sat. aq. NaHCO3 and brine, dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 4:1 hexane/ethyl acetate) yielded 1.56 g (42%) of 4-pyrazinylbenzaldehyde.

reactant | Na2CO3 | 1 M, 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 2-chloropyrazine | 20.06 mmol, 2.30 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 4-formylphenylboronic acid | 26.01 mmol, 3.90 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,4-bis(diphenylphosphino)butane]palladium(II) dichloride | 0.99 mmol, 0.60 g | C1=CC=C(C=C1)P(CCCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Pd]Cl
product | 4-pyrazinylbenzaldehyde | 1.56 g, 42% | N1=C(C=NC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
